US08026390B2
<2> The reaction described in <3> of Synthesis Example 1 was performed under the same conditions, except that the 4-phenylbenzoyloxymethyl difluoromethanesulfonic acid sodium salt (2.81 g) produced in <1> of Synthesis Example 8 above was used instead of the benzoyloxymethyldifluorosulfonic acid sodium salt in the reaction with diphenylmethylphenylsulfonium trifluoromethanesulfonic acid sodium salt, and thus 3.71 g (yield 85.7%) of 4-phenylbenzoic acid 2,2-difluoro-2-sulfoethyl ester diphenylmethylphenylsulfonium salt as shown in the following reaction scheme 17 was obtained. The structure of the product was confirmed by 1H-NMR (see FIG. 16).

reactant | 4-phenylbenzoyloxymethyl difluoromethanesulfonic acid sodium salt | 2.81 g | [Na+].C1(=CC=CC=C1)C1=CC=C(C(=O)OCC(S(=O)(=O)[O-])(F)F)C=C1
reactant | diphenylmethylphenylsulfonium trifluoromethanesulfonic acid sodium salt | [Na].FC(S(=O)(=O)[O-])(F)F.C1(=CC=CC=C1)C(C1=CC=CC=C1)[SH+]C1=CC=CC=C1
product | 4-phenylbenzoic acid 2,2-difluoro-2-sulfoethyl ester diphenylmethylphenylsulfonium salt | 3.71 g, yield 85.7% | C1(=CC=CC=C1)C(C1=CC=CC=C1)[SH+]C1=CC=CC=C1.FC(COC(C1=CC=C(C=C1)C1=CC=CC=C1)=O)(S(=O)(=O)O)F | InChI=1S/C19H16S.C15H12F2O5S/c1-4-10-16(11-5-1)19(17-12-6-2-7-13-17)20-18-14-8-3-9-15-18;16-15(17,23(19,20)21)10-22-14(18)13-8-6-12(7-9-13)11-4-2-1-3-5-11/h1-15,19H;1-9H,10H2,(H,19,20,21)/p+1
